* extracted by klt extract --deck gf180mcu

* cell bandgap_top
* pin vdd
* pin vref
* pin vss
* pin vsubs
.SUBCKT bandgap_top vdd vref vss vsubs
* device instance $1 r0 *1 18.8,72.405 nfet
M$1 \$3 \$3 vss vsubs nfet L=2U W=2.5U AS=2.25P AD=2.25P PS=6.8U PD=6.8U
* device instance $2 r0 *1 23.1,73.655 nfet
M$2 \$4 \$3 vss vsubs nfet L=2U W=5U AS=4.5P AD=4.5P PS=11.8U PD=11.8U
* device instance $3 r0 *1 27.4,76.155 nfet
M$3 \$5 \$3 vss vsubs nfet L=2U W=10U AS=9P AD=9P PS=21.8U PD=21.8U
* device instance $4 r0 *1 31.7,76.155 nfet
M$4 \$5 \$3 vss vsubs nfet L=2U W=10U AS=9P AD=9P PS=21.8U PD=21.8U
* device instance $5 r0 *1 36,72.155 nfet
M$5 \$12 \$5 vss vsubs nfet L=2U W=2U AS=1.8P AD=1.8P PS=5.8U PD=5.8U
* device instance $6 r0 *1 40.3,72.155 nfet
M$6 \$4 \$5 vss vsubs nfet L=2U W=2U AS=1.8P AD=1.8P PS=5.8U PD=5.8U
* device instance $7 r0 *1 25.8,103.115 nfet
M$7 vss vss vss vsubs nfet L=16U W=2U AS=1.8P AD=1.8P PS=5.8U PD=5.8U
* device instance $8 r0 *1 19.8,91.315 nfet
M$8 \$13 \$3 vss vsubs nfet L=4U W=10U AS=9P AD=9P PS=21.8U PD=21.8U
* device instance $9 r0 *1 32.1,87.315 nfet
M$9 \$6 \$3 vss vsubs nfet L=16U W=2U AS=1.8P AD=1.8P PS=5.8U PD=5.8U
* device instance $10 r0 *1 44.1,107.115 nfet
M$10 \$10 \$8 \$9 vsubs nfet L=16U W=10U AS=9P AD=9P PS=21.8U PD=21.8U
* device instance $11 r0 *1 44.4,86.815 nfet
M$11 \$8 \$8 \$7 vsubs nfet L=4U W=1U AS=0.9P AD=0.9P PS=3.8U PD=3.8U
* device instance $12 r0 *1 50.7,86.815 nfet
M$12 \$7 \$7 vss vsubs nfet L=4U W=1U AS=0.9P AD=0.9P PS=3.8U PD=3.8U
* device instance $13 r0 *1 62.4,107.115 nfet
M$13 \$12 \$8 \$11 vsubs nfet L=16U W=10U AS=9P AD=9P PS=21.8U PD=21.8U
* device instance $14 r0 *1 80.7,107.115 nfet
M$14 \$12 \$8 \$11 vsubs nfet L=16U W=10U AS=9P AD=9P PS=21.8U PD=21.8U
* device instance $15 r0 *1 99,107.115 nfet
M$15 \$10 \$8 \$9 vsubs nfet L=16U W=10U AS=9P AD=9P PS=21.8U PD=21.8U
* device instance $16 r0 *1 117.3,103.115 nfet
M$16 vss vss vss vsubs nfet L=16U W=2U AS=1.8P AD=1.8P PS=5.8U PD=5.8U
* device instance $17 r0 *1 19.8,118.915 nfet
M$17 vss vss vss vsubs nfet L=4U W=2U AS=1.8P AD=1.8P PS=5.8U PD=5.8U
* device instance $18 r0 *1 26.1,130.415 nfet
M$18 \$9 \$23 \$13 vsubs nfet L=4U W=25U AS=22.5P AD=22.5P PS=51.8U PD=51.8U
* device instance $19 r0 *1 32.4,130.415 nfet
M$19 \$11 \$21 \$13 vsubs nfet L=4U W=25U AS=22.5P AD=22.5P PS=51.8U PD=51.8U
* device instance $20 r0 *1 38.7,130.415 nfet
M$20 \$11 \$21 \$13 vsubs nfet L=4U W=25U AS=22.5P AD=22.5P PS=51.8U PD=51.8U
* device instance $21 r0 *1 45,130.415 nfet
M$21 \$9 \$23 \$13 vsubs nfet L=4U W=25U AS=22.5P AD=22.5P PS=51.8U PD=51.8U
* device instance $22 r0 *1 51.3,130.415 nfet
M$22 \$9 \$23 \$13 vsubs nfet L=4U W=25U AS=22.5P AD=22.5P PS=51.8U PD=51.8U
* device instance $23 r0 *1 57.6,130.415 nfet
M$23 \$11 \$21 \$13 vsubs nfet L=4U W=25U AS=22.5P AD=22.5P PS=51.8U PD=51.8U
* device instance $24 r0 *1 63.9,130.415 nfet
M$24 \$11 \$21 \$13 vsubs nfet L=4U W=25U AS=22.5P AD=22.5P PS=51.8U PD=51.8U
* device instance $25 r0 *1 70.2,130.415 nfet
M$25 \$9 \$23 \$13 vsubs nfet L=4U W=25U AS=22.5P AD=22.5P PS=51.8U PD=51.8U
* device instance $26 r0 *1 76.5,130.415 nfet
M$26 \$9 \$23 \$13 vsubs nfet L=4U W=25U AS=22.5P AD=22.5P PS=51.8U PD=51.8U
* device instance $27 r0 *1 82.8,130.415 nfet
M$27 \$11 \$21 \$13 vsubs nfet L=4U W=25U AS=22.5P AD=22.5P PS=51.8U PD=51.8U
* device instance $28 r0 *1 89.1,130.415 nfet
M$28 \$11 \$21 \$13 vsubs nfet L=4U W=25U AS=22.5P AD=22.5P PS=51.8U PD=51.8U
* device instance $29 r0 *1 95.4,130.415 nfet
M$29 \$9 \$23 \$13 vsubs nfet L=4U W=25U AS=22.5P AD=22.5P PS=51.8U PD=51.8U
* device instance $30 r0 *1 101.7,130.415 nfet
M$30 \$9 \$23 \$13 vsubs nfet L=4U W=25U AS=22.5P AD=22.5P PS=51.8U PD=51.8U
* device instance $31 r0 *1 108,130.415 nfet
M$31 \$11 \$21 \$13 vsubs nfet L=4U W=25U AS=22.5P AD=22.5P PS=51.8U PD=51.8U
* device instance $32 r0 *1 114.3,130.415 nfet
M$32 \$11 \$21 \$13 vsubs nfet L=4U W=25U AS=22.5P AD=22.5P PS=51.8U PD=51.8U
* device instance $33 r0 *1 120.6,130.415 nfet
M$33 \$9 \$23 \$13 vsubs nfet L=4U W=25U AS=22.5P AD=22.5P PS=51.8U PD=51.8U
* device instance $34 r0 *1 126.9,118.915 nfet
M$34 vss vss vss vsubs nfet L=4U W=2U AS=1.8P AD=1.8P PS=5.8U PD=5.8U
* device instance $35 r0 *1 25.8,149.715 pfet
M$35 vdd vdd vdd \$34 pfet L=16U W=2U AS=1.8P AD=1.8P PS=5.8U PD=5.8U
* device instance $36 r0 *1 44.1,158.715 pfet
M$36 \$10 \$6 \$14 \$34 pfet L=16U W=20U AS=18P AD=18P PS=41.8U PD=41.8U
* device instance $37 r0 *1 62.4,158.715 pfet
M$37 \$12 \$6 \$15 \$34 pfet L=16U W=20U AS=18P AD=18P PS=41.8U PD=41.8U
* device instance $38 r0 *1 80.7,158.715 pfet
M$38 \$12 \$6 \$15 \$34 pfet L=16U W=20U AS=18P AD=18P PS=41.8U PD=41.8U
* device instance $39 r0 *1 99,158.715 pfet
M$39 \$10 \$6 \$14 \$34 pfet L=16U W=20U AS=18P AD=18P PS=41.8U PD=41.8U
* device instance $40 r0 *1 117.3,149.715 pfet
M$40 vdd vdd vdd \$34 pfet L=16U W=2U AS=1.8P AD=1.8P PS=5.8U PD=5.8U
* device instance $41 r0 *1 25.8,175.515 pfet
M$41 vdd vdd vdd \$34 pfet L=16U W=2U AS=1.8P AD=1.8P PS=5.8U PD=5.8U
* device instance $42 r0 *1 44.1,179.515 pfet
M$42 \$14 \$10 vdd \$34 pfet L=16U W=10U AS=9P AD=9P PS=21.8U PD=21.8U
* device instance $43 r0 *1 62.4,179.515 pfet
M$43 \$15 \$10 vdd \$34 pfet L=16U W=10U AS=9P AD=9P PS=21.8U PD=21.8U
* device instance $44 r0 *1 80.7,179.515 pfet
M$44 \$15 \$10 vdd \$34 pfet L=16U W=10U AS=9P AD=9P PS=21.8U PD=21.8U
* device instance $45 r0 *1 99,179.515 pfet
M$45 \$14 \$10 vdd \$34 pfet L=16U W=10U AS=9P AD=9P PS=21.8U PD=21.8U
* device instance $46 r0 *1 117.3,175.515 pfet
M$46 vdd vdd vdd \$34 pfet L=16U W=2U AS=1.8P AD=1.8P PS=5.8U PD=5.8U
* device instance $47 r0 *1 20.8,199.555 pfet
M$47 vdd vdd vdd \$34 pfet L=6U W=2U AS=1.8P AD=1.8P PS=5.8U PD=5.8U
* device instance $48 r0 *1 23.8,191.035 pfet
M$48 \$4 \$4 vdd \$34 pfet L=12U W=4U AS=3.6P AD=3.6P PS=9.8U PD=9.8U
* device instance $49 r0 *1 29.1,202.305 pfet
M$49 \$19 \$12 vdd \$34 pfet L=6U W=7.5U AS=6.75P AD=6.75P PS=16.8U PD=16.8U
* device instance $50 r0 *1 57.1,189.535 pfet
M$50 \$6 \$6 vdd \$34 pfet L=50U W=1U AS=0.9P AD=0.9P PS=3.8U PD=3.8U
* device instance $51 r0 *1 37.4,202.305 pfet
M$51 \$3 \$4 \$19 \$34 pfet L=6U W=7.5U AS=6.75P AD=6.75P PS=16.8U PD=16.8U
* device instance $52 r0 *1 45.7,199.555 pfet
M$52 vdd vdd vdd \$34 pfet L=6U W=2U AS=1.8P AD=1.8P PS=5.8U PD=5.8U
* device instance $53 r0 *1 109.4,191.535 pfet
M$53 \$8 \$6 vdd \$34 pfet L=50U W=5U AS=4.5P AD=4.5P PS=11.8U PD=11.8U
* device instance $54 r0 *1 20.8,212.215 pfet
M$54 vdd vdd vdd \$34 pfet L=6U W=2U AS=1.8P AD=1.8P PS=5.8U PD=5.8U
* device instance $55 r0 *1 29.1,218.715 pfet
M$55 \$21 \$4 \$20 \$34 pfet L=6U W=15U AS=13.5P AD=13.5P PS=31.8U PD=31.8U
* device instance $56 r0 *1 37.4,218.715 pfet
M$56 \$23 \$4 \$22 \$34 pfet L=6U W=15U AS=13.5P AD=13.5P PS=31.8U PD=31.8U
* device instance $57 r0 *1 45.7,218.715 pfet
M$57 vref \$4 \$24 \$34 pfet L=6U W=15U AS=13.5P AD=13.5P PS=31.8U PD=31.8U
* device instance $58 r0 *1 54,218.715 pfet
M$58 vref \$4 \$24 \$34 pfet L=6U W=15U AS=13.5P AD=13.5P PS=31.8U PD=31.8U
* device instance $59 r0 *1 62.3,218.715 pfet
M$59 \$23 \$4 \$22 \$34 pfet L=6U W=15U AS=13.5P AD=13.5P PS=31.8U PD=31.8U
* device instance $60 r0 *1 70.6,218.715 pfet
M$60 \$21 \$4 \$20 \$34 pfet L=6U W=15U AS=13.5P AD=13.5P PS=31.8U PD=31.8U
* device instance $61 r0 *1 78.9,218.715 pfet
M$61 \$21 \$4 \$20 \$34 pfet L=6U W=15U AS=13.5P AD=13.5P PS=31.8U PD=31.8U
* device instance $62 r0 *1 87.2,218.715 pfet
M$62 \$23 \$4 \$22 \$34 pfet L=6U W=15U AS=13.5P AD=13.5P PS=31.8U PD=31.8U
* device instance $63 r0 *1 95.5,218.715 pfet
M$63 vref \$4 \$24 \$34 pfet L=6U W=15U AS=13.5P AD=13.5P PS=31.8U PD=31.8U
* device instance $64 r0 *1 103.8,218.715 pfet
M$64 vref \$4 \$24 \$34 pfet L=6U W=15U AS=13.5P AD=13.5P PS=31.8U PD=31.8U
* device instance $65 r0 *1 112.1,218.715 pfet
M$65 \$23 \$4 \$22 \$34 pfet L=6U W=15U AS=13.5P AD=13.5P PS=31.8U PD=31.8U
* device instance $66 r0 *1 120.4,218.715 pfet
M$66 \$21 \$4 \$20 \$34 pfet L=6U W=15U AS=13.5P AD=13.5P PS=31.8U PD=31.8U
* device instance $67 r0 *1 128.7,212.215 pfet
M$67 vdd vdd vdd \$34 pfet L=6U W=2U AS=1.8P AD=1.8P PS=5.8U PD=5.8U
* device instance $68 r0 *1 20.8,234.295 pfet
M$68 vdd vdd vdd \$34 pfet L=6U W=2U AS=1.8P AD=1.8P PS=5.8U PD=5.8U
* device instance $69 r0 *1 29.1,240.795 pfet
M$69 \$20 \$12 vdd \$34 pfet L=6U W=15U AS=13.5P AD=13.5P PS=31.8U PD=31.8U
* device instance $70 r0 *1 37.4,240.795 pfet
M$70 \$22 \$12 vdd \$34 pfet L=6U W=15U AS=13.5P AD=13.5P PS=31.8U PD=31.8U
* device instance $71 r0 *1 45.7,240.795 pfet
M$71 \$24 \$12 vdd \$34 pfet L=6U W=15U AS=13.5P AD=13.5P PS=31.8U PD=31.8U
* device instance $72 r0 *1 54,240.795 pfet
M$72 \$24 \$12 vdd \$34 pfet L=6U W=15U AS=13.5P AD=13.5P PS=31.8U PD=31.8U
* device instance $73 r0 *1 62.3,240.795 pfet
M$73 \$22 \$12 vdd \$34 pfet L=6U W=15U AS=13.5P AD=13.5P PS=31.8U PD=31.8U
* device instance $74 r0 *1 70.6,240.795 pfet
M$74 \$20 \$12 vdd \$34 pfet L=6U W=15U AS=13.5P AD=13.5P PS=31.8U PD=31.8U
* device instance $75 r0 *1 78.9,240.795 pfet
M$75 \$20 \$12 vdd \$34 pfet L=6U W=15U AS=13.5P AD=13.5P PS=31.8U PD=31.8U
* device instance $76 r0 *1 87.2,240.795 pfet
M$76 \$22 \$12 vdd \$34 pfet L=6U W=15U AS=13.5P AD=13.5P PS=31.8U PD=31.8U
* device instance $77 r0 *1 95.5,240.795 pfet
M$77 \$24 \$12 vdd \$34 pfet L=6U W=15U AS=13.5P AD=13.5P PS=31.8U PD=31.8U
* device instance $78 r0 *1 103.8,240.795 pfet
M$78 \$24 \$12 vdd \$34 pfet L=6U W=15U AS=13.5P AD=13.5P PS=31.8U PD=31.8U
* device instance $79 r0 *1 112.1,240.795 pfet
M$79 \$22 \$12 vdd \$34 pfet L=6U W=15U AS=13.5P AD=13.5P PS=31.8U PD=31.8U
* device instance $80 r0 *1 120.4,240.795 pfet
M$80 \$20 \$12 vdd \$34 pfet L=6U W=15U AS=13.5P AD=13.5P PS=31.8U PD=31.8U
* device instance $81 r0 *1 128.7,234.295 pfet
M$81 vdd vdd vdd \$34 pfet L=6U W=2U AS=1.8P AD=1.8P PS=5.8U PD=5.8U
* device instance $82 r0 *1 24.2,264.955 bjt
Q$82 vsubs \$26 vss bjt AE=25P PE=20U AB=108.16P PB=41.6U AC=108.16P PC=41.6U
+ NE=1
* device instance $83 r0 *1 24.2,264.955 bjt
Q$83 vsubs \$26 vss bjt AE=37.44P PE=62.4U AB=108.16P PB=41.6U AC=108.16P
+ PC=41.6U NE=1
* device instance $84 r0 *1 39.3,264.955 bjt
Q$84 vsubs \$27 \$35 bjt AE=25P PE=20U AB=108.16P PB=41.6U AC=108.16P PC=41.6U
+ NE=1
* device instance $85 r0 *1 39.3,264.955 bjt
Q$85 vsubs \$27 vss bjt AE=37.44P PE=62.4U AB=108.16P PB=41.6U AC=108.16P
+ PC=41.6U NE=1
* device instance $86 r0 *1 54.4,264.955 bjt
Q$86 vsubs \$28 \$36 bjt AE=25P PE=20U AB=108.16P PB=41.6U AC=108.16P PC=41.6U
+ NE=1
* device instance $87 r0 *1 54.4,264.955 bjt
Q$87 vsubs \$28 vss bjt AE=37.44P PE=62.4U AB=108.16P PB=41.6U AC=108.16P
+ PC=41.6U NE=1
* device instance $88 r0 *1 69.5,264.955 bjt
Q$88 vsubs \$29 \$36 bjt AE=25P PE=20U AB=108.16P PB=41.6U AC=108.16P PC=41.6U
+ NE=1
* device instance $89 r0 *1 69.5,264.955 bjt
Q$89 vsubs \$29 vss bjt AE=37.44P PE=62.4U AB=108.16P PB=41.6U AC=108.16P
+ PC=41.6U NE=1
* device instance $90 r0 *1 84.6,264.955 bjt
Q$90 vsubs \$30 \$21 bjt AE=25P PE=20U AB=108.16P PB=41.6U AC=108.16P PC=41.6U
+ NE=1
* device instance $91 r0 *1 84.6,264.955 bjt
Q$91 vsubs \$30 vss bjt AE=37.44P PE=62.4U AB=108.16P PB=41.6U AC=108.16P
+ PC=41.6U NE=1
* device instance $92 r0 *1 99.7,264.955 bjt
Q$92 vsubs \$31 \$36 bjt AE=25P PE=20U AB=108.16P PB=41.6U AC=108.16P PC=41.6U
+ NE=1
* device instance $93 r0 *1 99.7,264.955 bjt
Q$93 vsubs \$31 vss bjt AE=37.44P PE=62.4U AB=108.16P PB=41.6U AC=108.16P
+ PC=41.6U NE=1
* device instance $94 r0 *1 114.8,264.955 bjt
Q$94 vsubs \$32 \$36 bjt AE=25P PE=20U AB=108.16P PB=41.6U AC=108.16P PC=41.6U
+ NE=1
* device instance $95 r0 *1 114.8,264.955 bjt
Q$95 vsubs \$32 vss bjt AE=37.44P PE=62.4U AB=108.16P PB=41.6U AC=108.16P
+ PC=41.6U NE=1
* device instance $96 r0 *1 129.9,264.955 bjt
Q$96 vsubs \$33 vss bjt AE=25P PE=20U AB=108.16P PB=41.6U AC=108.16P PC=41.6U
+ NE=1
* device instance $97 r0 *1 129.9,264.955 bjt
Q$97 vsubs \$33 vss bjt AE=37.44P PE=62.4U AB=108.16P PB=41.6U AC=108.16P
+ PC=41.6U NE=1
* device instance $98 r0 *1 46.9,147.915 cap_mim_2f0_m4m5_noshield
C$98 \$17 \$16 6.91488e-12 cap_mim_2f0_m4m5_noshield
* device instance $99 r0 *1 21.35,280.355 ppolyf_u
R$99 \$36 \$23 vsubs 5379.5 ppolyf_u
* device instance $100 r0 *1 18.726,296.53 ppolyf_u
R$100 \$63 \$63 vsubs 485.1 ppolyf_u
* device instance $101 r0 *1 22.678,296.53 ppolyf_u
R$101 \$63 \$37 vsubs 485.1 ppolyf_u
* device instance $102 r0 *1 26.63,296.53 ppolyf_u
R$102 \$37 \$63 vsubs 485.1 ppolyf_u
* device instance $103 r0 *1 58.35,283.792 ppolyf_u
R$103 \$35 \$63 vsubs 71239 ppolyf_u
* device instance $104 r0 *1 30.582,296.53 ppolyf_u
R$104 \$63 \$38 vsubs 485.1 ppolyf_u
* device instance $105 r0 *1 34.534,296.53 ppolyf_u
R$105 \$38 \$39 vsubs 485.1 ppolyf_u
* device instance $106 r0 *1 38.486,296.53 ppolyf_u
R$106 \$39 \$40 vsubs 485.1 ppolyf_u
* device instance $107 r0 *1 42.438,296.53 ppolyf_u
R$107 \$40 \$63 vsubs 485.1 ppolyf_u
* device instance $108 r0 *1 46.39,296.53 ppolyf_u
R$108 \$63 \$41 vsubs 485.1 ppolyf_u
* device instance $109 r0 *1 50.342,296.53 ppolyf_u
R$109 \$41 \$42 vsubs 485.1 ppolyf_u
* device instance $110 r0 *1 54.294,296.53 ppolyf_u
R$110 \$42 \$43 vsubs 485.1 ppolyf_u
* device instance $111 r0 *1 58.246,296.53 ppolyf_u
R$111 \$43 \$44 vsubs 485.1 ppolyf_u
* device instance $112 r0 *1 62.198,296.53 ppolyf_u
R$112 \$44 \$45 vsubs 485.1 ppolyf_u
* device instance $113 r0 *1 66.15,296.53 ppolyf_u
R$113 \$45 \$46 vsubs 485.1 ppolyf_u
* device instance $114 r0 *1 70.102,296.53 ppolyf_u
R$114 \$46 \$47 vsubs 485.1 ppolyf_u
* device instance $115 r0 *1 74.054,296.53 ppolyf_u
R$115 \$47 \$63 vsubs 485.1 ppolyf_u
* device instance $116 r0 *1 78.006,296.53 ppolyf_u
R$116 \$63 \$48 vsubs 485.1 ppolyf_u
* device instance $117 r0 *1 81.958,296.53 ppolyf_u
R$117 \$48 \$49 vsubs 485.1 ppolyf_u
* device instance $118 r0 *1 85.91,296.53 ppolyf_u
R$118 \$49 \$50 vsubs 485.1 ppolyf_u
* device instance $119 r0 *1 89.862,296.53 ppolyf_u
R$119 \$50 \$51 vsubs 485.1 ppolyf_u
* device instance $120 r0 *1 93.814,296.53 ppolyf_u
R$120 \$51 \$52 vsubs 485.1 ppolyf_u
* device instance $121 r0 *1 97.766,296.53 ppolyf_u
R$121 \$52 \$53 vsubs 485.1 ppolyf_u
* device instance $122 r0 *1 101.718,296.53 ppolyf_u
R$122 \$53 \$54 vsubs 485.1 ppolyf_u
* device instance $123 r0 *1 105.67,296.53 ppolyf_u
R$123 \$54 \$55 vsubs 485.1 ppolyf_u
* device instance $124 r0 *1 109.622,296.53 ppolyf_u
R$124 \$55 \$56 vsubs 485.1 ppolyf_u
* device instance $125 r0 *1 113.574,296.53 ppolyf_u
R$125 \$56 \$57 vsubs 485.1 ppolyf_u
* device instance $126 r0 *1 117.526,296.53 ppolyf_u
R$126 \$57 \$58 vsubs 485.1 ppolyf_u
* device instance $127 r0 *1 121.478,296.53 ppolyf_u
R$127 \$58 \$59 vsubs 485.1 ppolyf_u
* device instance $128 r0 *1 125.43,296.53 ppolyf_u
R$128 \$59 \$60 vsubs 485.1 ppolyf_u
* device instance $129 r0 *1 129.382,296.53 ppolyf_u
R$129 \$60 \$61 vsubs 485.1 ppolyf_u
* device instance $130 r0 *1 133.334,296.53 ppolyf_u
R$130 \$61 \$62 vsubs 485.1 ppolyf_u
* device instance $131 r0 *1 137.286,296.53 ppolyf_u
R$131 \$62 \$63 vsubs 485.1 ppolyf_u
* device instance $132 r0 *1 20.726,302.13 ppolyf_u
R$132 vref \$64 vsubs 485.1 ppolyf_u
* device instance $133 r0 *1 24.678,302.13 ppolyf_u
R$133 \$64 \$65 vsubs 485.1 ppolyf_u
* device instance $134 r0 *1 28.63,302.13 ppolyf_u
R$134 \$65 \$66 vsubs 485.1 ppolyf_u
* device instance $135 r0 *1 32.582,302.13 ppolyf_u
R$135 \$66 \$67 vsubs 485.1 ppolyf_u
* device instance $136 r0 *1 36.534,302.13 ppolyf_u
R$136 \$67 \$68 vsubs 485.1 ppolyf_u
* device instance $137 r0 *1 40.486,302.13 ppolyf_u
R$137 \$68 \$69 vsubs 485.1 ppolyf_u
* device instance $138 r0 *1 44.438,302.13 ppolyf_u
R$138 \$69 \$70 vsubs 485.1 ppolyf_u
* device instance $139 r0 *1 48.39,302.13 ppolyf_u
R$139 \$70 \$71 vsubs 485.1 ppolyf_u
* device instance $140 r0 *1 52.342,302.13 ppolyf_u
R$140 \$71 \$72 vsubs 485.1 ppolyf_u
* device instance $141 r0 *1 56.294,302.13 ppolyf_u
R$141 \$72 \$73 vsubs 485.1 ppolyf_u
* device instance $142 r0 *1 60.246,302.13 ppolyf_u
R$142 \$73 \$74 vsubs 485.1 ppolyf_u
* device instance $143 r0 *1 64.198,302.13 ppolyf_u
R$143 \$74 \$75 vsubs 485.1 ppolyf_u
* device instance $144 r0 *1 68.15,302.13 ppolyf_u
R$144 \$75 \$76 vsubs 485.1 ppolyf_u
* device instance $145 r0 *1 72.102,302.13 ppolyf_u
R$145 \$76 \$77 vsubs 485.1 ppolyf_u
* device instance $146 r0 *1 76.054,302.13 ppolyf_u
R$146 \$77 \$78 vsubs 485.1 ppolyf_u
* device instance $147 r0 *1 80.006,302.13 ppolyf_u
R$147 \$78 \$79 vsubs 485.1 ppolyf_u
* device instance $148 r0 *1 83.958,302.13 ppolyf_u
R$148 \$79 \$80 vsubs 485.1 ppolyf_u
* device instance $149 r0 *1 87.91,302.13 ppolyf_u
R$149 \$80 \$81 vsubs 485.1 ppolyf_u
* device instance $150 r0 *1 91.862,302.13 ppolyf_u
R$150 \$81 \$82 vsubs 485.1 ppolyf_u
* device instance $151 r0 *1 95.814,302.13 ppolyf_u
R$151 \$82 \$83 vsubs 485.1 ppolyf_u
* device instance $152 r0 *1 99.766,302.13 ppolyf_u
R$152 \$83 \$84 vsubs 485.1 ppolyf_u
* device instance $153 r0 *1 103.718,302.13 ppolyf_u
R$153 \$84 \$85 vsubs 485.1 ppolyf_u
* device instance $154 r0 *1 107.67,302.13 ppolyf_u
R$154 \$85 \$86 vsubs 485.1 ppolyf_u
* device instance $155 r0 *1 111.622,302.13 ppolyf_u
R$155 \$86 \$87 vsubs 485.1 ppolyf_u
* device instance $156 r0 *1 115.574,302.13 ppolyf_u
R$156 \$87 \$88 vsubs 485.1 ppolyf_u
* device instance $157 r0 *1 119.526,302.13 ppolyf_u
R$157 \$88 \$89 vsubs 485.1 ppolyf_u
* device instance $158 r0 *1 123.478,302.13 ppolyf_u
R$158 \$89 \$90 vsubs 485.1 ppolyf_u
* device instance $159 r0 *1 127.43,302.13 ppolyf_u
R$159 \$90 \$91 vsubs 485.1 ppolyf_u
* device instance $160 r0 *1 131.382,302.13 ppolyf_u
R$160 \$91 \$92 vsubs 485.1 ppolyf_u
* device instance $161 r0 *1 135.334,302.13 ppolyf_u
R$161 \$92 \$93 vsubs 485.1 ppolyf_u
* device instance $162 r0 *1 139.286,302.13 ppolyf_u
R$162 \$93 \$94 vsubs 485.1 ppolyf_u
* device instance $163 r0 *1 143.238,302.13 ppolyf_u
R$163 \$94 \$63 vsubs 485.1 ppolyf_u
* device instance $164 r0 *1 82.3,33.957 ppolyf_u_1k
R$164 \$5 vdd vsubs 1944177.5 ppolyf_u_1k
.ENDS bandgap_top
